US05919779
To a solution of 4-(2-chloropyridin-3-yl)-5-(2-ethylaminopyridin-3-yl)-1, 2, 3-thiadiazole (0.324 g) in acetic acid (4 mL) containing sodium acetate (0.098 g) was added dropwise a solution of bromine (0.185 g) in acetic acid (1 mL). After 5 minutes, the mixture was diluted with ethyl acetate, washed with aqueous potassium carbonate, dried, filtered and evaporated. Chromatography of the residue over silica gel (ethyl acetate/hexane/chloroform 1/3/0.5) gave 4-(2-chloropyridin-3-yl)-5-(2-ethylamino-5-bromo-pyridin-3-yl)-1, 2, 3-thiadiazole (0.329 g).

reactant | 4-(2-chloropyridin-3-yl)-5-(2-ethylaminopyridin-3-yl)-1, 2, 3-thiadiazole | 0.324 g | ClC1=NC=CC=C1C=1N=NSC1C=1C(=NC=CC1)NCC | C14H12ClN5S
reactant | sodium acetate | 0.098 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.185 g | BrBr | Br2
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-chloropyridin-3-yl)-5-(2-ethylamino-5-bromo-pyridin-3-yl)-1, 2, 3-thiadiazole | 0.329 g | ClC1=NC=CC=C1C=1N=NSC1C=1C(=NC=C(C1)Br)NCC | C14H11BrClN5S
